US07696348B2
(iii) Synthetic of 2-(4-bromophenyl)-3-phenylquinoxaline
8.2 g (29 mmol) of 1-(4-bromophenyl)-2-phenylethanedione, 3.1 g (31 mmol) of o-phenylenediamine, and 100 mL of ethanol were placed into a 300-mL flask, and the mixture was refluxed for 2 hours. After the reaction, the precipitated solid was collected by suction filtration. The collected solid washed with ethanol and dried. 7.3 g of a light-yellow solid was obtained as the target substrate in 69% yield.

reactant | 1-(4-bromophenyl)-2-phenylethanedione | 29 mmol, 8.2 g | BrC1=CC=C(C=C1)C(C(=O)C1=CC=CC=C1)=O | C14H9BrO2
reactant | o-phenylenediamine | 31 mmol, 3.1 g | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2-(4-bromophenyl)-3-phenylquinoxaline | 7.3 g, 69% yield | BrC1=CC=C(C=C1)C1=NC2=CC=CC=C2N=C1C1=CC=CC=C1 | C20H13BrN2
